US08557809B2
Step F: Preparation of 2-(7-(2-methoxyethoxy)-[1,2,4]triazolo[4,3-a]pyridin-3-yl)quinolin-8-ol
To a solution of 8-(tert-butyldimethylsilyloxy)-2-(7-(2-methoxyethoxy)-[1,2,4]triazolo[4,3-a]pyridin-3-yl)quinoline (0.070 g, 0.155 mmol) in THF (8 mL) was added 1M HCl (1.5 mL, 1.50 mmol). After stirring at ambient temperature for 2 hours 1 M HCl (5 mL) was added and the reaction mixture stirred for a further 16 hours. The mixture was neutralized with 1M NaOH and diluted with EtOAc. The organic layer was washed with brine, dried over Na2SO4, filtered and concentrated under reduced pressure to give 40 mg (77%) of desired product.

reactant | 8-(tert-butyldimethylsilyloxy)-2-(7-(2-methoxyethoxy)-[1,2,4]triazolo[4,3-a]pyridin-3-yl)quinoline | 0.155 mmol, 0.070 g | [Si](C)(C)(C(C)(C)C)OC=1C=CC=C2C=CC(=NC12)C1=NN=C2N1C=CC(=C2)OCCOC | C24H30N4O3Si
reactant | HCl | 1.50 mmol, 1M, 1.5 mL | Cl | ClH
reactant | HCl | 1 M, 5 mL | Cl | ClH
reactant | NaOH | 1M | [OH-].[Na+]
solvent | THF | 8 mL | C1CCOC1 | C4H8O
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 2-(7-(2-methoxyethoxy)-[1,2,4]triazolo[4,3-a]pyridin-3-yl)quinolin-8-ol | 40 mg, 77% | COCCOC1=CC=2N(C=C1)C(=NN2)C2=NC1=C(C=CC=C1C=C2)O | C18H16N4O3
